US04732998
Disodium (phenoxymethylene)-bisphosphonate
A solution of (phenoxymethylene)-bisphosphonic acid (53 g) in water (300 ml) was titrated with 2N sodium hydroxide to pH=5.5. The title compound was precipitated by the addition of acetone (1500 ml). The crystalline salt was filtered and washed with acetone. Drying in vacuo over potassium hydroxide at room temperature gave the title compound in the form of a tetrahydrate.

reactant | (phenoxymethylene)-bisphosphonic acid | 53 g | O(C1=CC=CC=C1)C(P(O)(O)=O)P(O)(O)=O | C7H10O7P2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | Disodium (phenoxymethylene)-bisphosphonate | O(C1=CC=CC=C1)C(P(O)(O)=O)P([O-])([O-])=O.[Na+].[Na+] | InChI=1S/C7H10O7P2.2Na/c8-15(9,10)7(16(11,12)13)14-6-4-2-1-3-5-6;;/h1-5,7H,(H2,8,9,10)(H2,11,12,13);;/q;2*+1/p-2
